US06638929B2
A mixture of 0.2 g (0.87 mmol) of 8-chloroimidazo[4,5-g]quinoline-7-carbonitrile, 0.12 mL (1.1 mmol) of 3-bromoaniline, and 0.1 g (0.87 mmol) of pyridine hydrochloride in 5.0 mL of 2-ethoxyethanol is heated at reflux temperature for 45 minutes, then cooled to room temperature. The product mixture is poured into a saturated solution of sodium bicarbonate and stirred for 0.5 hour. The solid is collected by filtration, washed with water and dried. The solid is purified by silica gel chromatography, utilizing a gradient of methylene chloride/methanol(98:2 to 93:7) to yield 0.20 g of 8-(3-bromo-phenylamino)imidazo[4,5-g]quinoline-7-carbonitrile as pink solid, mp 286-288° C.

reactant | 8-chloroimidazo[4,5-g]quinoline-7-carbonitrile | 0.87 mmol, 0.2 g | ClC1=C(C=NC=2CC=3C(=CC12)N=CN3)C#N | C11H5ClN4
reactant | 3-bromoaniline | 1.1 mmol, 0.12 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | pyridine hydrochloride | 0.87 mmol, 0.1 g | Cl.N1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-ethoxyethanol | 5.0 mL | C(C)OCCO | C4H10O2
product | 8-(3-bromo-phenylamino)imidazo[4,5-g]quinoline-7-carbonitrile | 0.20 g | BrC=1C=C(C=CC1)NC1=C(C=NC=2CC=3C(=CC12)N=CN3)C#N | C17H10BrN5
